US06610846B1
A solution of {2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester (prepared as in Example 1(B)(c), 129 mg, 0.28 mmol) in tetrahydrofuran (1.4 mL) at 25° C. was slowly treated with sodium borohydride (22.5 mg, 0.59 mmol). The resulting reaction mixture was stirred at 25° C. for 10 h. After 10 h at 25° C., a substantial amount of starting material still remained. An additional amount of sodium borohydride (21.4 mg, 0.57 mmol) was added to the reaction mixture, and the reaction mixture was heated under reflux for 14 h. The reaction mixture was allowed to cool to 25° C. and then slowly quenched by the dropwise addition of water. The resulting reaction mixture was concentrated in vacuo to remove tetrahydrofuran. The resulting residue was diluted with ethyl acetate (100 mL) and washed with a saturated aqueous sodium chloride solution (1×50 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 then 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-dichlorophenyl)-N-[4-(2-hydroxyethyl)-thiazol-2-yl]-propionamide (68.1 mg, 58%) as a white foam: mp 85-86° C.; FAB-HRMS m/e calcd for C19H22Cl2N2O2S (M+H)+ 413.0858, found 413.0838.

reactant | {2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester | 0.28 mmol, 129 mg | C(C)OC(CC=1N=C(SC1)NC(C(CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C21H24Cl2N2O3S
reactant | sodium borohydride | 0.59 mmol, 22.5 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.57 mmol, 21.4 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 1.4 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(3,4-dichlorophenyl)-N-[4-(2-hydroxyethyl)-thiazol-2-yl]-propionamide | 68.1 mg, 58% | C1(CCCC1)CC(C(=O)NC=1SC=C(N1)CCO)C1=CC(=C(C=C1)Cl)Cl | C19H22Cl2N2O2S
